US07241745B2
4-(1-benzylpiperidin-3-yliden)-butyronitrile
77.3 g (188.3 mmol) 3-cyanopropyl-triphenylphosphonium bromide are suspended in 300 ml toluene and added to 22.0 g (191.9 mmol) potassium tert-butylate. The mixture is cooled to ca 0° C. under moisture exclusion and a solution of 34.6 g (182.8 mmol) 1-benzyl-3-piperidone in 50 ml toluene is added dropwise under cooling. The batch is left to stand overnight at ca. 0° C. and subsequently diluted with 200 ml toluene and washed twice, each with 100 ml water. The organic phase is extracted with 150 ml half concentrated hydrochloric acid. Subsequently, the aqueous phase is made basic with 200 ml 10% sodium hydroxide solution and extracted twice, each with 250 ml toluene.

reactant | 3-cyanopropyl-triphenylphosphonium bromide | 188.3 mmol, 77.3 g | [Br-].C(#N)CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butylate | 191.9 mmol, 22.0 g | CC(C)(C)[O-].[K+]
reactant | 1-benzyl-3-piperidone | 182.8 mmol, 34.6 g | C(C1=CC=CC=C1)N1CC(CCC1)=O | C12H15NO
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(1-benzylpiperidin-3-yliden)-butyronitrile | C(C1=CC=CC=C1)N1CC(CCC1)=CCCC#N | C16H20N2
